US07189851B2
E. Allyl (2E)-3-amino-4-(2,4-difluorophenyl)-2-butenoate
Allyl 4-(2,4-difluorophenyl)-3-oxobutanoate (5.0 g, 19.67 mmol) and ammonium acetate (7.58 g, 98.33 mmol) were refluxed in toluene (20 mL) for 2 h with azeotropic removal of H2O and then cooled and concentrated. The residue was redissolved in Et2O and the organics washed with 1N HCl (2×), H2O, brine, and then dried (Na2SO4), filtered and concentrated to give 5.0 g (100% yield) of the title compound as a yellow oil: 1H NMR (CDCl3, 400 MHz) δ 7.25–7.14 (m, 1H), 6.63 (dd, J=16.1, 7.9 Hz, 2H), 5.97–5.88 (m, 1H), 5.28 (dd, J=17.2, 1.5 Hz, 1H), 5.19 (dd, J=10.2, 1.1 Hz, 1H), 4.60 (s, 1H), 4.55 (d, J=5.7 Hz, 2H), 3.43 (s, 2H).

reactant | Allyl 4-(2,4-difluorophenyl)-3-oxobutanoate | 19.67 mmol, 5.0 g | FC1=C(C=CC(=C1)F)CC(CC(=O)OCC=C)=O | C13H12F2O3
reactant | ammonium acetate | 98.33 mmol, 7.58 g | C(C)(=O)[O-].[NH4+]
reactant | H2O | O | H2O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | Allyl (2E)-3-amino-4-(2,4-difluorophenyl)-2-butenoate | 5.0 g, 100% yield | N/C(=C/C(=O)OCC=C)/CC1=C(C=C(C=C1)F)F | C13H13F2NO2
